US09402841B2
Step A: methyl 2-bromo-6-methoxybenzoate
To a mixture of 2-bromo-6-methoxybenzoic acid (40 g, 0.176 mol) in DMF (300 mL) was added K2CO3 (24.8 g, 0.176 mol) and CH3I (37 g, 0.264 mol). The mixture was stirred at RT overnight. The reaction was quenched with 1M HCl aq and the mixture was extracted with EtOAc (3×300 mL). The organic phase was dried over MgSO4 and concentrated in vacuo to give the title compound (41 g, 99%).

reactant | 2-bromo-6-methoxybenzoic acid | 0.176 mol, 40 g | BrC1=C(C(=O)O)C(=CC=C1)OC | C8H7BrO3
reactant | K2CO3 | 0.176 mol, 24.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 0.264 mol, 37 g | CI | CH3I
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | methyl 2-bromo-6-methoxybenzoate | 41 g, 99% | BrC1=C(C(=O)OC)C(=CC=C1)OC | C9H9BrO3
